US07622480B2
This compound was prepared following the procedure described in example 4, part E, starting with 3 g (10.9 mmol) of 1-(2-ethoxyethyl)-3-piperidin yl-1H-pyrrolo[2,3-b]pyridine and 4 g (16.5 mmol) of 2-(2-chloroethoxy)-4-methoxy-benzoic acid methyl ester. After standard work-up and purification, 2.3 g (44% yield) of 2-(2-{4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidin-1-yl}-ethoxy)-4-methoxy-benzoic acid methyl ester were obtained.

reactant | 1-(2-ethoxyethyl)-3-piperidin yl-1H-pyrrolo[2,3-b]pyridine | 10.9 mmol, 3 g | C(C)OCCN1C=C(C=2C1=NC=CC2)N2CCCCC2 | C16H23N3O
reactant | 2-(2-chloroethoxy)-4-methoxy-benzoic acid methyl ester | 16.5 mmol, 4 g | COC(C1=C(C=C(C=C1)OC)OCCCl)=O | C11H13ClO4
product | 2-(2-{4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidin-1-yl}-ethoxy)-4-methoxy-benzoic acid methyl ester | 2.3 g, 44% yield | COC(C1=C(C=C(C=C1)OC)OCCN1CCC(CC1)C1=CN(C2=NC=CC=C21)CCOCC)=O | C27H35N3O5
